US09056885B2
2,3,4,5-tetrachloro-6-(9-hydroxy-2,3,5,6,7,8-hexahydro-1H-azepino[3,2,1-ij]quinoline-10-carbonyl)benzoic Acid
To a solution of 9-hydroxy-2,3,5,6,7,8-hexahydro-1H-azepino[3,2,1-ij]quinolone (30 mg) in dichlorobenzene (1 mL), tetrachlorophthalic anhydride (0.13 mL) was added. After stirring at reflux for 2 hours, the solvent was removed, and the resulting crude product purified by preparative HPLC (gradient of ACN in 0.1% TFA in H2O) to provide the title compound (20 mg) as a green solid: MS expected 490 (C21H18Cl4NO4+, M+), found 490.

reactant | 9-hydroxy-2,3,5,6,7,8-hexahydro-1H-azepino[3,2,1-ij]quinolone | 30 mg | OC1=CC=C2C(CCN3C2=C1CCCC3)=O | C13H15NO2
reactant | tetrachlorophthalic anhydride | 0.13 mL | ClC=1C(=C(C(=C2C1C(=O)OC2=O)Cl)Cl)Cl | C8Cl4O3
solvent | dichlorobenzene | 1 mL | C1=CC(=CC=C1Cl)Cl | C6H4Cl2
product | 2,3,4,5-tetrachloro-6-(9-hydroxy-2,3,5,6,7,8-hexahydro-1H-azepino[3,2,1-ij]quinoline-10-carbonyl)benzoic Acid | 20 mg | ClC1=C(C(=O)O)C(=C(C(=C1Cl)Cl)Cl)C(=O)C=1C=C2CCCN3C2=C(C1O)CCCC3 | C21H17Cl4NO4
